US08138189B2
Step 1: 2-(4-Bromo-2-chloro-phenyl)-1-(6-methoxy-pyridin-3-yl)-ethanone
In analogy to Example 165, step 1, 6-methoxynicotinic acid was converted to the acid chloride and subsequently reacted with 4-bromo-1-bromomethyl-2-chloro-benzene to give the title compound (not completely pure) as a light yellow solid.

reactant | 6-methoxynicotinic acid | COC1=NC=C(C(=O)O)C=C1 | C7H7NO3
reactant | 4-bromo-1-bromomethyl-2-chloro-benzene | BrC1=CC(=C(C=C1)CBr)Cl | C7H5Br2Cl
product | 2-(4-Bromo-2-chloro-phenyl)-1-(6-methoxy-pyridin-3-yl)-ethanone | BrC1=CC(=C(C=C1)CC(=O)C=1C=NC(=CC1)OC)Cl | C14H11BrClNO2
